US07034039B2
A solution of (E)-3-[3-[[(tert-butoxycarbonyl)amino]methyl]-2-isobutyl-1-oxo-4-phenyl-1,2-dihydro-6-isoquinolinyl]-2-propenamide (0.24 g, 0.5 mmol) in ethyl acetate, (5 mL) was added a solution of 4N hydrogen chloride in ethyl acetate (5 mL), and the obtained solution was stirred at room temperature for 2 h. The reaction mixture was concentrated under reduced pressure, and the precipitated crystals were recrystallized from methanol-diisopropyl ether to give (E)-3-[3-(aminomethyl)-2-isobutyl-1-oxo-4-phenyl-1,2-dihydro-6-isoquinolinyl]-2-propenamide hydrochloride (0.20 g, 95.2%) as crystals.

reactant | (E)-3-[3-[[(tert-butoxycarbonyl)amino]methyl]-2-isobutyl-1-oxo-4-phenyl-1,2-dihydro-6-isoquinolinyl]-2-propenamide | 0.5 mmol, 0.24 g | C(C)(C)(C)OC(=O)NCC=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)/C=C/C(=O)N)=O)CC(C)C | C28H33N3O4
reactant | hydrogen chloride | 4N | Cl | ClH
solvent | ethyl acetate | 5 mL | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 5 mL | C(C)(=O)OCC | C4H8O2
product | (E)-3-[3-(aminomethyl)-2-isobutyl-1-oxo-4-phenyl-1,2-dihydro-6-isoquinolinyl]-2-propenamide hydrochloride | 0.20 g, 95.2% | Cl.NCC=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)/C=C/C(=O)N)=O)CC(C)C | InChI=1S/C23H25N3O2.ClH/c1-15(2)14-26-20(13-24)22(17-6-4-3-5-7-17)19-12-16(9-11-21(25)27)8-10-18(19)23(26)28;/h3-12,15H,13-14,24H2,1-2H3,(H2,25,27);1H/b11-9+;
